US05594021
2-Propylbenzo[b]thiophene-3-sulfonyl chloride was prepared by the method of Example 40B with DMF (3.6 mmoles, 0.28 ml), sulfuryl chloride (3.1 mmoles, 0.25 ml) and 2-propylbenzo[b]thiophene (1.8 mmoles, 0.32 g). Flash chromatography (3% ethyl acetate/hexanes) provided 0.28 g (56%) of a yellow solid.

reactant | DMF | 3.6 mmoles, 0.28 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 3.1 mmoles, 0.25 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-propylbenzo[b]thiophene | 1.8 mmoles, 0.32 g | C(CC)C1=CC2=C(S1)C=CC=C2 | C11H12S
product | 2-Propylbenzo[b]thiophene-3-sulfonyl chloride | C(CC)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C11H11ClO2S2
